US04049714
Phosphorus oxychloride (3.06 g., 0.02 mole) in 10 ml. of 1,2-dichloroethane is added dropwise in 20 min. to a solution of 3-(p-anisidinomethyl)indole (5.04 g., 0.02 mole), 5-methyl-2-pyrrolidinone (1.98 g., 0.02 mole) and triethylamine (2.02 g., 0.02 mole) held at a temperature of about 3° C. When the addition is complete, the mixture is stirred at 3 to 4° C. for 5 hr. and then filtered to provide 2.4 g. solid which is crystallized from water affording 1.02 g., m.p. 184°-187° C. This fraction is combined with an additional 1.81 g. fraction obtained as hereinabove described and crystallized from ethanol to furnish analytically pure 3-[[N-(5-methyl-1-pyrrolin-2-yl)-p-anisidino]methyl]indole hydrochloride, m.p. 181.5°-183.5° C. (corr.)

reactant | Phosphorus oxychloride | 0.02 mole, 3.06 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(p-anisidinomethyl)indole | 0.02 mole, 5.04 g | COC1=CC=C(C=C1)NCC1=CNC2=CC=CC=C12 | C16H16N2O
reactant | 5-methyl-2-pyrrolidinone | 0.02 mole, 1.98 g | CC1CCC(N1)=O | C5H9NO
reactant | triethylamine | 0.02 mole, 2.02 g | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3-[[N-(5-methyl-1-pyrrolin-2-yl)-p-anisidino]methyl]indole hydrochloride | Cl.CC1CCC(=N1)N(C1=CC=C(OC)C=C1)CC1=CNC2=CC=CC=C12 | InChI=1S/C21H23N3O.ClH/c1-15-7-12-21(23-15)24(17-8-10-18(25-2)11-9-17)14-16-13-22-20-6-4-3-5-19(16)20;/h3-6,8-11,13,15,22H,7,12,14H2,1-2H3;1H
